US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)cyclobutanamide
Beginning with 9.0 mg (0.029 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 4.3 mg (0.036 mMol) of cyclobutanecarbonyl chloride, 6.7 mg (74%) of the title compound were recovered by the procedure described in Example 2.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | cyclobutanecarbonyl chloride | 0.036 mMol, 4.3 mg | C1(CCC1)C(=O)Cl | C5H7ClO
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)cyclobutanamide | 6.7 mg, 74% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3CCC3)CC1)C | C19H24N2O2
